US05106863
2-Octylthio-1H-1,3-benzimidazole
To a solution of 2-mercaptobenzimidazole (4.95 g, 33 mmol) in methanol (150 mL) and 2N NaOH/H2O (50 mmol) was added octyl bromide (7.16 g, 33 mmol). The solution was stirred at ambient temperature for 72 hours, during which a suspension formed which was filtered and the solid residue dissolved in CH2Cl2, washed with saturated NaHCO3, and dried over Na2SO4. Evaporation of the solvent gave the title compound as a white solid (6.2 g, 72%). m.p. 110°-113° C. NMR CDCl3)δ7.4(m, 4H), 3.22(t, J=8 Hz, 2H), 1.20(br, 15H).

reactant | 2-mercaptobenzimidazole | 33 mmol, 4.95 g | SC=1NC2=C(N1)C=CC=C2 | C7H6N2S
reactant | NaOH H2O | 50 mmol, 2N | [OH-].[Na+].O
reactant | octyl bromide | 33 mmol, 7.16 g | C(CCCCCCC)Br | C8H17Br
solvent | methanol | 150 mL | CO | CH4O
product | 2-Octylthio-1H-1,3-benzimidazole | 6.2 g, 72% | C(CCCCCCC)SC1=NC2=C(N1)C=CC=C2 | C15H22N2S
